US05807886
(b) 5-Nitro-2-(methyl)(phenylmethyl)aminoindane hydrochloride
To 5-nitro-2-(phenylmethyl)aminoindane hydrochloride (2.29 g, 7.52 mmol) in DMF (100 ml) was added potassium carbonate (2.60 g, 18.80 mmol) followed by methyl iodide (0.47 ml, 7.52 mmol). The mixture was warmed to room temperature, stirred for 16 hr, dumped into water (400 ml), and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered through a small plug of silica gel and reduced to a syrup. The titled compound was isolated as the hydrochloride salt: (1.08 g, 45%); m.p. dec 280° C.

reactant | 5-nitro-2-(phenylmethyl)aminoindane hydrochloride | 7.52 mmol, 2.29 g | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)NCC1=CC=CC=C1
reactant | potassium carbonate | 18.80 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 7.52 mmol, 0.47 ml | CI | CH3I
reactant | water | 400 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 5-Nitro-2-(methyl)(phenylmethyl)aminoindane hydrochloride | Cl.[N+](=O)([O-])C=1C=C2CC(C(C2=CC1)NCC1=CC=CC=C1)C | InChI=1S/C17H18N2O2.ClH/c1-12-9-14-10-15(19(20)21)7-8-16(14)17(12)18-11-13-5-3-2-4-6-13;/h2-8,10,12,17-18H,9,11H2,1H3;1H
